Lowpass LC filter

V1 1 0 DC 0 AC 1

* 3.5MHz resonance
L1 1 2 10u
C1 2 0 200p

.ac dec 100 1meg 10meg

.control
run
plot vdb(2)
plot vp(2)
.endc

.end
